US04711958
To a solution of 200 mg of (2RS, 3S)-3-tertbutoxycarbonylamino-4-cyclohexyl-2-hydroxybutyric acid which was prepared in Reference Example 4, 0.06 ml of morpholine and 13 mg of 1-hydroxybenzotriazole in 6 ml of ethyl acetate was added 150 mg of dicyclohexylcarbodiimide with stirring under ice-cooling, and the mixture was stirred for 16 hours at room temperature. The reaction mixture was cooled, and filtered to remove insoluble materials. The filtrate was washed successively with an aqueous citric acid solution, a 5% aqueous sodium bicarbonate solution and a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure to obtain 296 mg of 4-[(2RS, 3S)-3-(tertbutoxycarbonyl)amino-4-cyclohexyl-2-hydroxybutyryl]morpholine.

reactant | (2RS, 3S)-3-tertbutoxycarbonylamino-4-cyclohexyl-2-hydroxybutyric acid | 200 mg | C(C)(C)(C)OC(=O)N[C@H](C(C(=O)O)O)CC1CCCCC1 | C15H27NO5
reactant | morpholine | 0.06 ml | N1CCOCC1 | C4H9NO
reactant | 1-hydroxybenzotriazole | 13 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 150 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
product | 4-[(2RS, 3S)-3-(tertbutoxycarbonyl)amino-4-cyclohexyl-2-hydroxybutyryl]morpholine | 296 mg | C(C)(C)(C)OC(=O)N[C@H](C(C(=O)N1CCOCC1)O)CC1CCCCC1 | C19H34N2O5
